US04761420
A mixture of 2-cyanoethy 3-oxobutanoate (83.3 g, 0.54 mol), methyl 3-aminocrotonate (61.9 g, 0.54 mol), and 3-nitrobenzaldehyde (81.3 g, 0.54 mol) in methanol (540 mL ) was heated at reflux for 8 hours, then stirred overnight. The resulting precipitate was filtered, washed with methanol, and dried to produce racemic 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(2-cyano)ethoxycarbonyl-1,4-dihydropyridine (mp=123° C.).

reactant | 2-cyanoethy 3-oxobutanoate | 0.54 mol, 83.3 g | O=C(CC(=O)OCCC#N)C | C7H9NO3
reactant | methyl 3-aminocrotonate | 0.54 mol, 61.9 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 3-nitrobenzaldehyde | 0.54 mol, 81.3 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
solvent | methanol | 540 mL | CO | CH4O
product | racemic 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(2-cyano)ethoxycarbonyl-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCC#N)C | C19H19N3O6
